US09102662B2
2-Amino-N-{5-(3,5-difluoro-benzyl)-1H-indazol-3-yl}-4-(4-methyl-piperazin-1-yl)-benzamide [(IA), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-(4-methyl-piperazin-1-yl)-2-amino-phenyl] cpd. 8
A mixture of N-[5-(3,5-difluoro-benzyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-nitro-benzamide (3.21 g, 6.33 mmol), cyclohexene (20 mL), dioxane (200 mL) and 10% Pd/C (0.8 g) was stirred at 100° C. for 2 hours. The reaction mixture was filtered over a celite pad washing thoroughly with THF and MeOH. After evaporation of the organic phase, purification of the crude by chromatography over silica gel (DCM/MeOH 95/5) gave 2.51 g of title compound (83% yield).

reactant | N-[5-(3,5-difluoro-benzyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-nitro-benzamide | 6.33 mmol, 3.21 g | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)N2CCN(CC2)C)[N+](=O)[O-])=O)C=C(C1)F | C26H24F2N6O3
reactant | cyclohexene | 20 mL | C1=CCCCC1 | C6H10
catalyst | Pd/C | 0.8 g | [Pd] | Pd
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 2-Amino-N-{5-(3,5-difluoro-benzyl)-1H-indazol-3-yl}-4-(4-methyl-piperazin-1-yl)-benzamide | 2.51 g, 83% yield | NC1=C(C(=O)NC2=NNC3=CC=C(C=C23)CC2=CC(=CC(=C2)F)F)C=CC(=C1)N1CCN(CC1)C | C26H26F2N6O
